US07560597B2
1-(2′,4′-Dichloro-biphenyl-4-yl)-hex-5-en-1-one
5-Bromo-1-pentene (5 g) was gently heated with magnesium turnings (1 g) in anhydrous tetrahydrofuran (25 mL) until reaction started. The mixture was left to reflux without further heating to give the Grignard reagent, then allowed to cool to room temperature. 2′,4′-Dichloro-biphenyl-4-carboxylic acid methoxy-methyl-amide (2 g) was dissolved in anhydrous tetrahydrofuran (25 mL) and chilled in an ice bath. The above Grignard reagent was added dropwise with vigorous stirring. Following addition, the mixture was allowed to warm to room temperature and stirring continued for 2 hours. Saturated NH4Cl solution (50 mL) was added and the mixture extracted with petrol. Drying with Na2SO4 and evaporation gave an oil. Column chromatography (petrol:ethyl acetate) gave the title compound as a clear oil which solidified overnight. 13C NMR (CDCl3): δ 23.4, 33.3, 37.8, 115.3, 127.4, 128.0, 129.7, 129.9, 131.9, 133.1, 134.5, 136.3, 138.0, 138.4, 142.8 and 199.9. 1H NMR (CDCl3): δ 1.85 (2H, t, J=7.0 Hz), 2.18 (2H, t, J=7.0 Hz), 3.03 (2H, t, J=7.3 Hz), 5.01 (2H, m), 5.87 (1H, m), 7.28 (2H, d, J=8.2 Hz), 7.31 (1H, s), 7.52 (2H, m) and 8.00 (2H, m).

reactant | 2′,4′-Dichloro-biphenyl-4-carboxylic acid methoxy-methyl-amide | 2 g | CON(C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)Cl)C | C15H13Cl2NO2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-(2′,4′-Dichloro-biphenyl-4-yl)-hex-5-en-1-one | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(CCCC=C)=O | C18H16Cl2O
